US08426422B2
ethyl 4-(4-((2-bromocyclohex-1-enyl)methyl)piperazin-1-yl)benzoate
A 100 mL round bottom flask was charged with 2-bromocyclohex-1-enecarbaldehyde, (prepared as described by Arnold, A. et. al. Collect. Czech. Chem. Commun., 1961, 26, 3059-3073.), (42 mmol), 4-piperazin-1-yl-benzoic acid ethyl ester (42 mmol) and ethanol (50 ml). The mixture was stirred and sodium cyanoborohydride (42 mmol) was added. Acetic acid was used to adjust pH to 5-6. The reaction mixture was stirred under N2 at room temperature overnight. The reaction mixture was filtered and washed with ethanol. The filtered solid was discarded and the combined organic layers were concentrated under vacuum. The mixture was purified by silica gel chromatography eluting with 5-10% ethyl acetate in hexanes to provide the title compound.

reactant | 2-bromocyclohex-1-enecarbaldehyde | BrC1=C(CCCC1)C=O | C7H9BrO
reactant | 4-piperazin-1-yl-benzoic acid ethyl ester | 42 mmol | C(C)OC(C1=CC=C(C=C1)N1CCNCC1)=O | C13H18N2O2
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 42 mmol | C(#N)[BH3-].[Na+]
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 4-(4-((2-bromocyclohex-1-enyl)methyl)piperazin-1-yl)benzoate | BrC1=C(CCCC1)CN1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C20H27BrN2O2
